US06544985B2
(4-Cyano-5-fluoro-2-nitro-phenyl)-carbamic acid tert-butyl ester
The title compound was prepared via the di-Boc compound from 4-cyano-5-fluoro-2-nitroaniline (24.9 g, 137 mmol) [Ohmori et al. J. Med. Chem. 1994,37, 467-475] and Boc2O (61.5 g, 282 mmol), followed by treatment with 2 eq. TFA in CH2Cl2 according to the general procedure B (method c). Obtained by column chromatography (hexane/ethylacetate 4:1) as a light yellow solid (14.5 g, 39%).

reactant | 4-cyano-5-fluoro-2-nitroaniline | 137 mmol, 24.9 g | C(#N)C1=CC(=C(N)C=C1F)[N+](=O)[O-] | C7H4FN3O2
reactant | Boc2O | 282 mmol, 61.5 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | hexane ethylacetate | CCCCCC.C(C)OC(C)=O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (4-Cyano-5-fluoro-2-nitro-phenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)F)C#N)[N+](=O)[O-])=O | C12H12FN3O4
